US06133271
Following the procedure of Example 1, the reaction of 3,4-methylenedioxybenzylamine with 2,4,5-trichloro-6-methyl-thieno-[2,3-d]-pyrimidine gives 2,5-dichloro-6-methyl-4-93,4-methylenedioxybenzylamino)-thieno-[2,3-d]-pyrimidine

reactant | 3,4-methylenedioxybenzylamine | C1OC=2C=C(CN)C=CC2O1 | C8H9NO2
reactant | 2,4,5-trichloro-6-methyl-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2Cl)C)Cl | C7H3Cl3N2S
product | thieno-[2,3-d]-pyrimidine | N1=CN=CC2=C1SC=C2 | C6H4N2S
